US06207686B1
The mixture of ethyl 3-[1-(triphenylmethyl)imidazol-4-yl]-2-(3,4-methylenedioxyphenyl)propionate (730 mg) in 1N sodium hydroxide aqueous solution (4.1 ml) and ethanol (10 ml) was stirred at ambient temperature for 3 hours. The resulting solution was neutralized with 1N hydrochloric acid (4 ml) followed by dilution with ethyl acetate, and then the organic layer was washed with brine. Drying, filtering and removal of the solvents afforded 3-[1-(triphenylmethyl)-imidazol-4-yl]-2-(3,4-methylenedioxyphenyl)propionic acid (650 mg) as a white solid.

reactant | ethyl 3-[1-(triphenylmethyl)imidazol-4-yl]-2-(3,4-methylenedioxyphenyl)propionate | 730 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CC(C(=O)OCC)C1=CC2=C(C=C1)OCO2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H30N2O4
reactant | hydrochloric acid | 1N, 4 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 1N, 4.1 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[1-(triphenylmethyl)-imidazol-4-yl]-2-(3,4-methylenedioxyphenyl)propionic acid | 650 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CC(C(=O)O)C1=CC2=C(C=C1)OCO2)(C2=CC=CC=C2)C2=CC=CC=C2 | C32H26N2O4
